US05580883
A solution of p-fluoronitrobenzene (31.8 ml) in dimethylformamide (200 ml) was ice-cooled and to this was added piperidine (60 ml) dropwise, followed by stirring with ice cooling for 2 hours. After the solvent was distilled off, the residual oily product was dissolved in ethyl acetate ester (200 ml), followed by washing in turn with aqueous saturated solution of sodium bicarbonate and water. Then, the solution was dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was recrystallized from n-hexane to obtain N-(4-nitrophenyl)piperidine as yellow crystals (52.8 g).

reactant | p-fluoronitrobenzene | 31.8 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | piperidine | 60 ml | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-(4-nitrophenyl)piperidine | 52.8 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCCCC1 | C11H14N2O2
